US07220862B2
(±)-[2-[1,4′]Bipiperidinyl-1′-yl-1-(4-hydroxy-piperidin-1-ylmethyl)-2-oxo-ethyl]-carbamic acid tert-butyl ester
To a solution 2-amino-1-[1,4′]bipiperidinyl-1′-yl-3-(4-hydroxy-piperidin-1yl)-propan-1-one (trifluoroacetic acid salt, 300 mg, 0.58 mmol) and diisopropylethylamine (0.30 mL, 4 equiv) in tetrahydrofuran (5 mL) was added di-tert-butyl-dicarbonate (128 mg, 1 equiv). The resulting solution was stirred at room temperature for 1 h, and concentrated. The residue was dissolved in ethyl acetate, washed with water, then brine, dried over magnesium sulfate, and concentrated to afford to 248 mg (98%) which was used without purification. Mass spec.: 439.65 (MH)+.

reactant | 2-amino-1-[1,4′]bipiperidinyl-1′-yl-3-(4-hydroxy-piperidin-1yl)-propan-1-one | 0.58 mmol, 300 mg | NC(C(=O)N1CCC(CC1)N1CCCCC1)CN1CCC(CC1)O | C18H34N4O2
reactant | diisopropylethylamine | 0.30 mL, 4 equiv | C(C)(C)N(CC)C(C)C | C8H19N
reactant | di-tert-butyl-dicarbonate | 128 mg, 1 equiv | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (±)-[2-[1,4′]Bipiperidinyl-1′-yl-1-(4-hydroxy-piperidin-1-ylmethyl)-2-oxo-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(C(=O)N1CCC(CC1)N1CCCCC1)CN1CCC(CC1)O)=O | C23H42N4O4
